US09416101B2
4-(chlorosulfonyl)benzoic acid (500 mg, 2.27 mmol) was treated with 3-methoxy-N-methylaniline (933 mg, 6.8 mmol) using method A to give 4-(N-(3-methoxyphenyl)-N-methylsulfamoyl)benzoic acid as an off white solid. Yield: 398 mg (55%). 1H-NMR: 8.10 (d, J=8.5 Hz, 2H), 7.66 (d, J=8.5 Hz, 2H), 7.25 (t, J=8.0 Hz, 1H), 6.88 (ddd, J=8.5, 2.5, 1.0 Hz, 1H), 6.67-6.64 (m, 2H), 3.69 (s, 3H), 3.16 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 500 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 3-methoxy-N-methylaniline | 6.8 mmol, 933 mg | COC=1C=C(NC)C=CC1 | C8H11NO
product | 4-(N-(3-methoxyphenyl)-N-methylsulfamoyl)benzoic acid | COC=1C=C(C=CC1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C15H15NO5S
